US06924278B2
A solution of ethyl (E)-3-(1-methyl-1H-imidazol-4-yl)acrylate (2.5 g) in tetrahydrofuran (100 ml) was hydrogenated over 10% palladium activated carbon (0.2 g) at room temperature under 2 atmospheric pressure. After removal of catalyst by filtration through Celite pad, the filtrate was concentrated under reduced pressure to give ethyl 3-(1-methyl-1H-imidazol-4-yl)propionate (2.63 g).

reactant | ethyl (E)-3-(1-methyl-1H-imidazol-4-yl)acrylate | 2.5 g | CN1C=NC(=C1)/C=C/C(=O)OCC | C9H12N2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium activated carbon | 0.2 g | [Pd] | Pd
product | ethyl 3-(1-methyl-1H-imidazol-4-yl)propionate | 2.63 g | CN1C=NC(=C1)CCC(=O)OCC | C9H14N2O2
